US07348359B2
Benzophenone hydrazone (232 mg, 1.2 mmol) was added to a solution of potassium t-butoxide (132 mg, 1.2 mmol) in 10 ml of THF. After stirring for 30 min. at ambient temperature under a nitrogen atmosphere, a solution of (5-bromo-2-fluoro-phenyl)-(2-ethoxy-3,5-diisopropyl-phenyl)-methanone (400 mg, 1.0 mmol) in THF (10 mL) was added and the reaction was stirred for 12 h, then quenched with saturated ammonium chloride solution (20 mL) and extracted with ether (2×20 mL). The organic layers were combined, dried over MgSO4 and evaporated to a residue. The residue was dissolved in ethanol (10 mL) and 1N HCl solution (10 mL) and refluxed for 1 h. After cooling, the reaction was partitioned between ether and water. The organic layer was dried over MgSO4 and evaporated to a residue. The residue was purified by silica gel column (10% ethyl acetate in hexanes) to give 5-bromo-3-(2-ethoxy-3,5-diisopropyl-phenyl)-1H-indazole as a clear oil (61.8 mg, 16%). 1H NMR (250 MHz, CDCl3): δ 7.87 (bs, 1H), 7.22-7.02 (m, 3H), 6.55 (bd, 1H, J=9.4), 3.32 (m, 1H), 3.26 (q, 2H, J=7.5), 2.73 (m, 1H), 1.05 (s, 6H), 1.03 (s, 6H), 0.77 (t, 3H, J=7.5). MS [EI+] 401, 403 (M+H)+.

reactant | Benzophenone hydrazone | 1.2 mmol, 232 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | potassium t-butoxide | 1.2 mmol, 132 mg | CC(C)([O-])C.[K+]
reactant | (5-bromo-2-fluoro-phenyl)-(2-ethoxy-3,5-diisopropyl-phenyl)-methanone | 1.0 mmol, 400 mg | BrC=1C=CC(=C(C1)C(=O)C1=C(C(=CC(=C1)C(C)C)C(C)C)OCC)F | C21H24BrFO2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-bromo-3-(2-ethoxy-3,5-diisopropyl-phenyl)-1H-indazole | 61.8 mg, 16% | BrC=1C=C2C(=NNC2=CC1)C1=C(C(=CC(=C1)C(C)C)C(C)C)OCC | C21H25BrN2O
